US05026856
2.54 g of 2-benzyl-4-nitroisoindoline was dissolved in 10 ml of chloroform, and 1.27 g of sodium carbonate was added to the solution. To the mixture was added dropwise 1.30 g of ethyl chloroformate under ice-cooling while stirring. After the addition, the stirring was continued for 20 hours at room temperature. The insoluble materials were removed by filtration and the filtrate was washed with water, 5% hydrochloric acid, and then with water. The mixture was concentrated and recrystallized from a chloroform-ether mixed solvent to obtain 1.73 g of 2-ethoxycarbonyl-4-nitroisoindoline.

reactant | 2-benzyl-4-nitroisoindoline | 2.54 g | C(C1=CC=CC=C1)N1CC2=CC=CC(=C2C1)[N+](=O)[O-] | C15H14N2O2
reactant | sodium carbonate | 1.27 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethyl chloroformate | 1.30 g | ClC(=O)OCC | C3H5ClO2
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-ethoxycarbonyl-4-nitroisoindoline | 1.73 g | C(C)OC(=O)N1CC2=CC=CC(=C2C1)[N+](=O)[O-] | C11H12N2O4
